US07655632B2
3-(β-D-Galactopyranosyloxy)-4-[(4-{3-[2-hydroxy-1-hydroxy-methyl-1-(methyl)ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 1 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]-phenyl}methyl)-5-isopropyl-1H-pyrazole and 2-amino-2-methyl-1,3-propanediol instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]-phenyl}methyl)-5-isopropyl-1H-pyrazole and glycinamide hydrochloride, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]-phenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
reactant | 2-amino-2-methyl-1,3-propanediol | NC(CO)(CO)C | C4H11NO2
reactant | glycinamide hydrochloride | Cl.NCC(=O)N
product | 3-(β-D-Galactopyranosyloxy)-4-[(4-{3-[2-hydroxy-1-hydroxy-methyl-1-(methyl)ethylcarbamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCC(N(C(CO)C)CO)=O)C(C)C | C27H41N3O9
